US09428502B2
Compound 197.1. Pyrrolidine-1-carboximidamide hydrochloride
Into a 100-mL round-bottom flask, was placed a solution of pyrrolidine (5.8 mL, 70.30 mmol) in CH3CN (30 mL). Triethylamine (9.8 mL, 70.17 mmol) and 1H-pyrazole-1-carboximidamide hydrochloride (10.2 g, 69.59 mmol) was added to the reaction. The reaction mixture was stirred overnight at 60° C. The product was collected by filtration to yield 7.5 g (71%) of the title compound as a white solid.

reactant | pyrrolidine | 70.30 mmol, 5.8 mL | N1CCCC1 | C4H9N
reactant | Triethylamine | 70.17 mmol, 9.8 mL | C(C)N(CC)CC | C6H15N
reactant | 1H-pyrazole-1-carboximidamide hydrochloride | 69.59 mmol, 10.2 g | Cl.N1(N=CC=C1)C(N)=N
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | Pyrrolidine-1-carboximidamide hydrochloride | 7.5 g, 71% | Cl.N1(CCCC1)C(N)=N | InChI=1S/C5H11N3.ClH/c6-5(7)8-3-1-2-4-8;/h1-4H2,(H3,6,7);1H
